2175-04-19 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   call out but no bed
   CP free
   weaned nitro
   dc heparin
   prn breakthrough pain control with oxycodone 15 mg
   TEE: The left atrium is normal in size. There is mild symmetric left
   ventricular hypertrophy. The left ventricular cavity size is normal.
   There is mild regional left ventricular systolic dysfunction with
   thinned and akinetic (mildly aneurysmal) basal inferior and
   inferolateral segments. Right ventricular chamber size and free wall
   motion are normal. The aortic valve leaflets (3) are mildly thickened.
   There is no aortic valve stenosis. No aortic regurgitation is seen. The
   mitral valve leaflets are mildly thickened. The estimated pulmonary
   artery systolic pressure is normal. There is a trivial/physiologic
   pericardial effusion.
   Compared with the report of the prior study (images unavailable for
   review) of [**2168-4-19**], basal inferior hypokinesis was reported
   previously. Overall left ventricular systolic function is probably
   similar.
   Allergies:
   Cymbalta (Oral) (Duloxetine Hcl)
   Rash;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-4-19**] 06:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 65 (64 - 77) bpm
   BP: 114/64(75) {104/54(72) - 143/90(101)} mmHg
   RR: 11 (10 - 32) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
                  Total In:
                                                                  1,069 mL
                  PO:
                                                                    960 mL
                  TF:
   IVF:
                                                                    109 mL
   Blood products:
   Total out:
                                                                  1,580 mL
                                                                    300 mL
   Urine:
                                                                  1,580 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -511 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   Gen: WDWN middle aged male in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: difficult to assess JVD
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTAB, no crackles, wheezes or
   rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No c/c/e. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Labs / Radiology
   196 K/uL
   10.5 g/dL
   75 mg/dL
   2.5 mg/dL
   23 mEq/L
   4.8 mEq/L
   39 mg/dL
   105 mEq/L
   139 mEq/L
   31.3 %
   4.7 K/uL
        [image002.jpg]
                             [**2175-4-17**]  03:43 PM
                             [**2175-4-18**]  09:00 AM
                             [**2175-4-19**]  03:46 AM
                             [**2175-4-19**]  05:18 AM
   WBC
   7.9
   5.6
   4.7
   Hct
   30.9
   33.4
   31.3
   Plt
   181
   188
   196
   Cr
   2.1
   2.0
   2.5
   TropT
   0.25
   0.21
   Glucose
   127
   70
   75
   Other labs: PT / PTT / INR:25.5/27.7/2.5, CK / CKMB /
   Troponin-T:97/10/0.21, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   39 M w/ CAD s/p MI, s/p multiple PCI p/w CP.
   #. CAD:  No further episodes CP after nitro and hep gtt turned off.
   -- ETT today
   -- continue daily plavix 75mg
   --cont ASA, toprol XL, pravastatin, ACEI
   --cardiac enzymes trending down
   -- isordil 10mg TID, for angina symptoms
   #. dCHF: Looks euvolemic on exam. TTE with mildly depressed LV function
   and WMA consistent with prior infarcts.
   --cont ACEI
   --with apical aneurysm will need coumadin but already on for DVT
   #. H/o DVT:
   --hold coumadin for now in prep for possible cath (if chest pain). Will
   start hep gtt if subtherapeutic
   #. S/p renal xplant:
   --Cr continues to increase today from admission (2.0) with baseline in
   OMR ranging 2-2.5 over last few years.
   --appreciate renal recs. Will continue cyclosporine and prednisone.
   #. Neuropathy:  Chronic issue. Pain meds confirmed with prescribing
   physician.
   [**Name10 (NameIs) **] methadone
   -cont oxycontin
   #. FEN: Replete lytes prn.
   #. Access:  PIV
   #. PPx:  IV heparin, bowel regimen prn
   #. Emergency contact: wife
   #. [**Name2 (NI) 156**]:  full
   #. Dispo: Pending ETT and possibly home today if no abnormalities on
   ETT
   ICU Care
   Nutrition: HH diet
   Glycemic Control:  None needed
   Lines:
   20 Gauge - [**2175-4-17**] 02:54 PM
   Prophylaxis:
   DVT: INR therapeutic
 holding coumadin as above but no need for hep
   gtt yet
   Stress ulcer: PPI [**Hospital1 **]
   Communication:  Comments: with patient
   Code status: Full code
   Disposition: to floor after ETT and possibly home today if ETT without
   signs ischemia
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   agree with above
   Physical Examination
   agree with above
   Medical Decision Making
   agree with above
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4235**] [**Name (NI) 1714**]  on:[**2175-4-19**]
   17:36 ------